US04278677
A mixture of 9.91 g of 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole, 10.6 g of sodium carbonate, 150 ml of dimethylformamide and 4.5 g of ethyl bromide was stirred under an inert atmosphere at 30°-35° C. for 5 hours and was then poured into 1.5 liters of water which caused precipitation. The mixture was stirred for one hour and filtered and the filter was rinsed with water. The recovered product was dried overnight in an oven at 70° C. under reduced pressure in the presence of dehydrating agent to obtain 8.95 g of raw product melting at 205° C. The product was dissolved in 400 ml of refluxing ethyl acetate and the mixture was filtered hot. The filtrate was concentrated to 250 ml and crystallization was effected for one hour. The mixture was filtered and the recovered product was rinsed with ethyl acetate to obtain 6.28 g of 3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole in the form of yellow crystals melting at 205° C. Concentration of the mother liquors yielded another 1.76 g of product after crystallization for a total yield of 8.04 g.

reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 9.91 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | ethyl bromide | 4.5 g | C(C)Br | C2H5Br
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1.5 liters | O | H2O
product | 3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 6.28 g | C(C)N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C15H18N2
